US04155913
1 g of 2-chloro-4-(o-chlorophenyl)-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine-9-methanol is dissolved in 10 ml of absolute pyridine and treated with 1 ml of acetic anhydride. The solution is maintained at 30° C. for 15 hours and then evaporated under vacuum. The residue is partitioned between methylene chloride and water. The organic phase is washed with saturated sodium chloride solution, dried over sodium sulphate and evaporated. By recrystallization of the residue from ethyl acetate, there is obtained 9-acetoxymethyl-2-chloro-4-(o-chlorophenyl)-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]-diazepine of melting point 191°-193° C.

reactant | 2-chloro-4-(o-chlorophenyl)-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine-9-methanol | 1 g | ClC1=CC=2C(=NCC=3N(C2S1)C(=NN3)CO)C3=C(C=CC=C3)Cl | C15H10Cl2N4OS
reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 9-acetoxymethyl-2-chloro-4-(o-chlorophenyl)-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]-diazepine | C(C)(=O)OCC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(S1)Cl | C17H12Cl2N4O2S
